* gnetlist -g spice-sdb -o circuitLR.net circuit.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R1 0 n1 {resistorValue}  
L1 n0 n1 {inductorValue}H 
v1 0 n0 SIN(0 {voltageValue} {frequencyValue}Hz)
.INCLUDE ./Simulation.cmd
.end
