* gnetlist -g spice-sdb -o testCircuit.net testCircuit.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
v1 0 n0 SIN(0 10 100000Hz)
.INCLUDE ./Simulation.cmd
R1 0 n1 1k  
C1 n0 n1 3.3nF  
.end
